US07728018B2
C-(1-Aminomethyl-cyclohexyl)-methylamine
Cyclohexane-1,1-dicarbonitrile (20.0 g) was taken up in dry Et2 (70 mL). This mixture was added dropwise to a suspension of LiAlH4 (17.0 g) in dry Et2O (250 mL) cooled in an ice bath. The mixture was stirred overnight at room temperature, cooled in an ice bath, and quenched by adding H2O (17.0 mL), 2M aqueous NaOH (34.0 mL) and again H2O (17 mL). The suspension was filtered, the filter cake was washed with Et2O, and the combined filtrates were evaporated to dryness yielding 20.8 g of a clear, colorless liquid. 1H NMR (400 MHz, CDCl3) δ 1.05-1.55 (m, 14H), 2.61 (s, 4H).

reactant | Cyclohexane-1,1-dicarbonitrile | 20.0 g | C1(CCCCC1)(C#N)C#N | C8H10N2
reactant | LiAlH4 | 17.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | Et2O | 250 mL | CCOCC | C4H10O
product | C-(1-Aminomethyl-cyclohexyl)-methylamine | NCC1(CCCCC1)CN | C8H18N2
